US08957074B2
Cis-tert-butyl 5-(6-nitropyridin-3-yl)-6-oxohexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
Following general N—C coupling procedure 1, 5-bromo-2-nitropyridine and cis-tert-butyl 6-oxohexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate were combined and gave after purification cis-tert-butyl 5-(6-nitropyridin-3-yl)-6-oxohexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (1.0 g) in 85% yield. 1H NMR (400 MHz, CDCl3) δ ppm 8.58 (d, J=2.53 Hz, 1H), 8.28 (d, J=8.59 Hz, 1H), 8.07 (dd, J1=8.84, J2=2.27 Hz, 1H), 4.18-3.61 (m, 4H), 3.29 (m, 2H), 2.85 (m, 3H), 2.55 (m, 1H), 1.47 (s, 9H)

reactant | 5-bromo-2-nitropyridine | BrC=1C=CC(=NC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | cis-tert-butyl 6-oxohexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | O=C1C[C@@H]2[C@H](CN1)CN(C2)C(=O)OC(C)(C)C | C12H20N2O3
product | Cis-tert-butyl 5-(6-nitropyridin-3-yl)-6-oxohexahydro-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 85% yield | [N+](=O)([O-])C1=CC=C(C=N1)N1C[C@H]2[C@@H](CC1=O)CN(C2)C(=O)OC(C)(C)C | C17H22N4O5
